US04185115
Preparation of p-[(p-Fluorophenethyl)amino]benzoic Acid
A mixture of 15.8 g. of 1-(2-chloroethyl)-4-fluorobenzene, 33 g. of ethyl p-aminobenzoate, 16.6 g. of potassium iodide and 100 ml. of hexamethylphosphoramide is heated at 95° C. for 15 hours. The mixture is poured into water and extracted with ether. The ether extracts are washed with water, dried over magnesium sulfate and concentrated in vacuo to an oil. To the oil is added 200 ml. of ethanol-water (9:1) and 21 g. of potassium hydroxide and the mixture is refluxed for 3.5 hours. The mixture is acidified with concentrated hydrochloric acid, diluted with water, cooled and filtered to give gray crystals. Recrystallization from ethanol gives light gray crystals, m.p. 161°-163° C.

reactant | 1-(2-chloroethyl)-4-fluorobenzene | ClCCC1=CC=C(C=C1)F | C8H8ClF
reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | potassium iodide | [I-].[K+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | p-[(p-Fluorophenethyl)amino]benzoic Acid | FC1=CC=C(CCNC2=CC=C(C(=O)O)C=C2)C=C1 | C15H14FNO2
